US08562945B2
A solution of 4-(2-aminoethyl)benzenesulfonamide (1.0 g, 5.0 mmol), AcOH (1.0 mL) and isoquinoline-1-carbaldehyde (2.09 g, 13.3 mmol) in DCE (50 mL) was stirred at 75° C. for 30 min under nitrogen. The reaction mixture was cooled to 0° C., and treated with NaBH(OAc)3 (3.165 g, 15 mmol). The reaction mixture was stirred at room temperature for overnight and decomposed with water. The reaction mixture was extracted with DCM. The organic layer was dried and concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel to afford 4-(2-(bis(isoquinolin-1-ylmethyl)amino)ethyl)benzenesulfonamide (1.86 g, 77%). 1H NMR (400 MHz, DMSO-d6) 8.24 (d, J=8.8 Hz, 2H), 7.96 (d, J=8.4 Hz, 2H), 7.91 (d, J=8.0 Hz, 2H), 7.72 (t, J=7.8 Hz, 2H), 7.65 (d, J=8.4 Hz, 2H), 7.55 (t, J=7.6 Hz, 2H), 7.50 (d, J=8.4 Hz, 2H), 7.30 (d, J=6.0 Hz, 2H), 7.29 (s, 2H), 4.01 (s, 4H), 2.94 (t, J=7.0 Hz, 2H), 2.78 (t, J=7.0 Hz, 2H); MS (ESI), 483.3 (M+H)+.

reactant | 4-(2-aminoethyl)benzenesulfonamide | 5.0 mmol, 1.0 g | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | AcOH | 1.0 mL | CC(=O)O | C2H4O2
reactant | isoquinoline-1-carbaldehyde | 13.3 mmol, 2.09 g | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
reactant | NaBH(OAc)3 | 15 mmol, 3.165 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 4-(2-(bis(isoquinolin-1-ylmethyl)amino)ethyl)benzenesulfonamide | 1.86 g, 77% | C1(=NC=CC2=CC=CC=C12)CN(CCC1=CC=C(C=C1)S(=O)(=O)N)CC1=NC=CC2=CC=CC=C12 | C28H26N4O2S
